US04762835
n-Butyl lithium (2.5 M in hexane, 3 cm3) was added portionwise to a solution of 2-[4-bromo-2,3,5,6-tetrafluorobenzyloxy]-tetrahydropyran (1.7 g) in dry tetrahydrofuran (10 cm3) under an atmosphere of dry nitrogen, whilst the reaction temperature was maintained at -70° C. After 30 minutes, copper (I) bromide - dimethyl sulphide complex (1.54 g) was added in one portion and the reaction temperature allowed to warm to 0° C., for a period of 15 minutes. After cooling to -70° C., a solution of Z-1-chloro-3-iodoprop-1-ene (2.03 g) in dry tetrahydrofuran (3 cm3) was added portionwise, and the reaction mixture stirred for a further hour at -70° C. After warming to the ambient temperature, (ca. 25° C.), aqueous ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. After drying, the solvent was evaporated under reduced pressure to give an orange oil. The residue was then subjected to medium pressure column chromatography on a silica gel column using a Gilson apparatus, eluting with petroleum ether (boiling range 40°-60° C.) containing diethyl ether (5% by volume) to give 2-[4-(3-chloroprop-2-en-1-yl)-2,3,5,6-tetrafluorobenzyloxy]-tetrahydropyran, as a mixture consisting predominantly of the Z isomer.

reactant | n-Butyl lithium | 2.5 M, 3 cm3 | C(CCC)[Li]
reactant | 2-[4-bromo-2,3,5,6-tetrafluorobenzyloxy]-tetrahydropyran | 1.7 g | BrC1=C(C(=C(COC2OCCCC2)C(=C1F)F)F)F | C12H11BrF4O2
reactant | Z-1-chloro-3-iodoprop-1-ene | 2.03 g | Cl\C=C/CI | C3H4ClI
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 cm3 | O1CCCC1 | C4H8O
product | 2-[4-(3-chloroprop-2-en-1-yl)-2,3,5,6-tetrafluorobenzyloxy]-tetrahydropyran | ClC=CCC1=C(C(=C(COC2OCCCC2)C(=C1F)F)F)F | C15H15ClF4O2
